Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut
 
Attending: ___.
 
Chief Complaint:
nausea, abdominal pain 
 
Major Surgical or Invasive Procedure:
EGD ___
 
History of Present Illness:
___ with an extensive past medical history including
nephrolithiasis (5mm, nonobstructing stone in L renal pelvis,
atypical urine cytology with subsequent cystoscopy unremarkable,
course complicated by hospitalization for MDE Ecoli urosepsis),
DVT/PE on xeralto, CVA, severe GERD/esophagitis, chronic
abdominal pain in setting of gastric bypass c/b SBOs/multiple
surgeries/adhesions, chronic lower back pain, chronic opiate use
with history of abuse, depression and anxiety who is presenting
with coffee ground emesis, persistent nausea and vomiting, and
admitted after failed PO challenge.

The patient reports several days of anorexia and weakness. She
reports that on the day of admission, he had several episodes of
coffe-ground appearing material several times. She endorses
abdominal pain around her umbilicus. She reported feeling weak
and presyncopal, without syncopal event or loss of 
consciousness.
Every day she eats, she either feels nausea and vomits, with
immediate relief. She reported her vomiting to be productive of
typical food products as well as small amounts of coffee-ground
emesis. She denied bright red blood in emesis or hematochezia.
She endorsed one episode of T99.9 oral 2 days ago. Her last 
bowel
movement was yesterday.

In the ED, initial VS were 98.3 80 138/90 16 100% RA.
CBC with WBC 3.6, H/H of 11.7/37.9, Plt 290. INR 1.1 BMP notable
for HCO3 19, BUN/Cr of ___. Troponin negative x 1. Lactate
1.7. UA negative with trace ketones.
Physical exam was notable for diffusely tender abdomen,
particularly in the LLQ. Rectal exam significant for brown stool
in the vault, which was guaic negative. 
CT abdomen/pelvis notable for mild thickening of the distal
colonic wall, which may be due to underdistention or mild
colitis, likely infectious or inflammatory. 
She received IV dilaudid 0.5 mg x 3 doses, IV Zofran x 2 doses,
and IV lorazepam 1 mg x 1. 
In the ED, she failed an oral PO challenge with continued
vomiting, so was subsequently admitted to medicine due to failed
PO challenge.

Upon arrival to the floor, patient stated that she has been
experiencing nausea and abdominal pain.  Denies CP, SOB, HA,
diarrhea, constipation.
 
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
PMH:
R knee menisectomy ___
DVT/PE
DMII- resolved with weight loss after gastric bypass
Asthma-resolved with weight loss after gastric bypass 
CVA ___ with residual left facial droop
Myelopathy NOS
Obesity s/p gastric bypass
Severe gastritis/esophagitis w/odynophagia
Recurrent esophageal candidiasis,
Multiple abdominal surgeries for "stomach leak"
s/p CCY
h/o SBO
Hernia
PUD
GERD
macrocytic anemia
h/o MRSA
osteoarthritis
narcotic abuse
arthroplasty 
HTN
Hepatitis C- cleared 
nephrolithiasis 
thyromegaly

 
Social History:
___
Family History:
Mother with diabetes and HTN
Brother with CHF

 
Physical Exam:
VITALS: Afebrile and vital signs stable 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular,  No JVD.
RESP: good air movement bilaterally
GI: Abdomen soft, non-tender
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, has left moderate hemiplegia 
with
___ weaker than RLE/RUE

 
Pertinent Results:
___ 07:45AM BLOOD Hgb-11.0* Hct-35.3
___ 06:28AM BLOOD WBC-3.1* RBC-3.75* Hgb-11.2 Hct-36.4 
MCV-97 MCH-29.9 MCHC-30.8* RDW-16.9* RDWSD-60.6* Plt ___
___ 06:20AM BLOOD WBC-3.0* RBC-3.61* Hgb-11.0* Hct-34.0 
MCV-94 MCH-30.5 MCHC-32.4 RDW-16.8* RDWSD-58.8* Plt ___
___ 10:41PM BLOOD WBC-3.6* RBC-3.92 Hgb-11.7 Hct-37.9 
MCV-97 MCH-29.8 MCHC-30.9* RDW-17.2* RDWSD-61.0* Plt ___
___ 06:28AM BLOOD Plt ___
___ 07:45AM BLOOD Glucose-73 UreaN-17 Creat-0.9 Na-142 
K-4.5 Cl-102 HCO3-26 AnGap-14
___ 06:28AM BLOOD Glucose-71 UreaN-8 Creat-1.0 Na-144 K-4.6 
Cl-106 HCO3-25 AnGap-13
___ 06:20AM BLOOD Glucose-80 UreaN-11 Creat-0.9 Na-141 
K-4.3 Cl-103 HCO3-25 AnGap-13
___ 07:10PM BLOOD Glucose-75 UreaN-14 Creat-1.0 Na-144 
K-4.4 Cl-101 HCO3-19* AnGap-24*
___ 06:20AM BLOOD ALT-11 AST-19 AlkPhos-119* TotBili-0.5
___ 07:10PM BLOOD ALT-14 AST-30 AlkPhos-138* TotBili-0.3
___ 06:20AM BLOOD Calcium-8.8 Phos-4.2 Mg-1.9
___ 07:10PM BLOOD Albumin-3.4* Calcium-9.2 Phos-4.2 Mg-1.8
___ 07:45AM BLOOD 25VitD-34
___ 07:33PM BLOOD Lactate-1.7 K-3.___ year old lady with history of CVA in ___ with residual left
sided facial droop, prior DVT/PE on rivaroxaban, obesity s/p
gastric bypass complicated by recurrent SBO ___ adhesions, 
severe
esophagitis/gastritis (most recent EGD ___ and GERD,
nephrolithiasis s/p recent lithotripsy ___ and left ureteral
stent (removed ___ who presented for abdominal pain and
admitted on ___.

PROBLEMS:
#acute on chronic abdominal pain
#nausea
-symptoms likely due to gastritis/esophagitis. Mesenteric 
ischemia was ruled -out based on history, exam, and normal 
lactate.  She had no evidence of UTI.  
She received a CT AP which showed no SBO, but question of distal 
colitis; however, she was asymptomatic from this incidental 
finding, suggesting a resolved
recent infection. During her hospital stay, with worsening 
symptoms, the hospitalist consulted GI who performed EGD on ___. 
 This showed esophagitis/gastritis likely
explaining her abdominal pain. She is on chronic methadone, 
which was continued.  The hospitalist also increased her 
Dilaudid from 2 to 4 mg and added Carafate in addition to 
Promethazine. I advised her that the narcotics can contribute to 
gastroparesis and ideally, she should be eweaned off of them 
completely.  However, I said I would honor the previous 
___'s decision to do a short -term increase.  I gave 20 
4mg tabs that should last until her next outpatient apt 4 days 
after admission. She did not fill her Rx for Dilaudid given on 
___.  I said to give this Rx to her PCP so they could re-write 
it as they saw fit.  

#Weight loss over 55lb since ___ with albumin of 3.4 due to
moderate protein/calorie malnutrition, likely due to significant
GI hx.  She was encouraged to eat small volume, frequent, 
high-calorie meals.  

# Coffee ground emesis
-Patient had reported coffee ground emesis. Of
note, no further coffee grounds were observed since in the
hospital/ED. ___ was negative and patient denied melena, 
making
upper GI bleed very unlikely. Though her witnessed coffee ground 
emesis
could have represented ___ tear in setting of
significant vomiting. H/H completely stable with trending.

# history of CVA, DVT/PE- Continued rivaroxaban 20 mg daily
- neuro exam is baseline for her. Subtle L facial droop.

# History of gastric bypass
She was continued on home  Ursodiol 500 mg PO BID, 
Cholestyramine 4 gm PO DAILY  
We held her home vitamin D, vitamin B12, vitamin C, MVI to 
minimize
pill burden.  However, the ultimate decision about pill burden 
can be left for a discussion with her and her PCP.  

#Depression/anxiety:  She was continued on her home medications. 
 

#GERD: Continued Ranitidine 150 mg PO DAILY and Pantoprazole 40 
mg PO Q12H 

I spent greater than 30 min on discharge planning and 
coordination of care.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H 
2. Ascorbic Acid ___ mg PO DAILY 
3. BuPROPion (Sustained Release) 150 mg PO BID 
4. Doxepin HCl 100 mg PO HS 
5. FoLIC Acid 1 mg PO DAILY 
6. Gabapentin 200 mg PO TID 
7. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Severe 
8. Methadone 20 mg PO TID 
9. Multivitamins W/minerals 1 TAB PO DAILY 
10. Pantoprazole 40 mg PO Q12H 
11. QUEtiapine Fumarate 75 mg PO QHS 
12. Rivaroxaban 20 mg PO DAILY 
13. Senna 8.6 mg PO BID 
14. Thiamine 100 mg PO DAILY 
15. Ursodiol 500 mg PO DAILY 
16. Vitamin D 1000 UNIT PO DAILY 
17. Ranitidine 150 mg PO DAILY 
18. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
19. Cyanocobalamin 100 mcg PO DAILY 
20. Docusate Sodium 100 mg PO BID 
21. ClonazePAM 0.5 mg PO BID anxiety 
22. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  Promethazine 12.5 mg PO Q6H:PRN nausea 
RX *promethazine 12.5 mg 1 (One) tab by mouth three times a day 
Disp #*30 Tablet Refills:*0 
2.  Sucralfate 1 gm PO QID 
RX *sucralfate 1 gram/10 mL 10 ml by mouth four times a day Disp 
#*1 Bottle Refills:*0 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe 
RX *hydromorphone 4 mg ___ tablet(s) by mouth four times a day 
Disp #*20 Tablet Refills:*0 
4.  Acetaminophen 1000 mg PO Q8H  
5.  Ascorbic Acid ___ mg PO DAILY  
6.  BuPROPion (Sustained Release) 150 mg PO BID  
7.  ClonazePAM 0.5 mg PO BID anxiety  
8.  Cyanocobalamin 100 mcg PO DAILY  
9.  Docusate Sodium 100 mg PO BID  
10.  Doxepin HCl 100 mg PO HS  
11.  Ferrous Sulfate 325 mg PO DAILY  
12.  FoLIC Acid 1 mg PO DAILY  
13.  Gabapentin 200 mg PO TID  
14.  Methadone 20 mg PO TID  
15.  Multivitamins W/minerals 1 TAB PO DAILY  
16.  Pantoprazole 40 mg PO Q12H  
17.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
18.  QUEtiapine Fumarate 75 mg PO QHS  
19.  Ranitidine 150 mg PO DAILY  
20.  Rivaroxaban 20 mg PO DAILY  
21.  Senna 8.6 mg PO BID  
22.  Thiamine 100 mg PO DAILY  
23.  Ursodiol 500 mg PO DAILY  
24.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Esophagitis
Gastritis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Instructions: Dear Ms. ___, 

It was a pleasure to be a part of your care team at ___ 
___.

====================================
Why did you come to the hospital? 
====================================

-You had abdominal pain and vomiting.

====================================
What happened at the hospital? 
====================================

-You underwent endoscopy procedure which revealed esophagitis 
and gastritis. This may be due to excess acid production in the 
stomach. You were given new medications to protect the stomach 
lining and improve your pain.

==================================================
What needs to happen when you leave the hospital? 
==================================================

-Take your medications every day as directed by your doctors 
-___ attend all of your doctor appointments, this is 
especially important to help with your gastritis and 
esophagitis.

It was a pleasure taking care of you during your stay! 

Sincerely, 

Your ___ team  

 
Followup Instructions:
___